US08729105B2
Preparation of 5-(4-chloro-phenyl)-N-(1-propyl-1H-pyrazol-3-ylmethyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (CAS Registry No. 1018782-82-5) and 1-propyl-1H-pyrazole-3-methanamine (CAS Registry No. 1006333-47-6) as starting materials, LC-MS (UV peak area/ESI) 96%, 453.29 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
reactant | 1-propyl-1H-pyrazole-3-methanamine | C(CC)N1N=C(C=C1)CN | C7H13N3
product | 5-(4-chloro-phenyl)-N-(1-propyl-1H-pyrazol-3-ylmethyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NN(C=C2)CCC)C1)OCC(F)(F)F | C21H20ClF3N4O2
